US07229986B2
3-[1-([4′-Chloro[1,1-biphenyl]-4-yl)carbonyl)-1,2,3,4-tetrahydro-6-quinolinyl]-3-hydroxy-N,N-dimethyl-1-propanamine
Sodium borohydride (0.6 g) was added to a solution of (E)-[1-[(4′-chloro[1,1′-biphenyl]-4-yl)carbonyl]-1,2,3,4-tetrahydro-6-quinolinyl]-3-(dimethylamino)-2-propen-1-one (0.3 g) obtained in Reference Example 6 in methanol (30 ml), and the mixture was heated for 3 hours under reflux. After the solvent was distilled away under reduced pressure, the residues were dissolved in water-ethyl acetate and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; ethyl acetate), whereby the title compound (0.1 g) was obtained as amorphous powder.

reactant | Sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | (E)-[1-[(4′-chloro[1,1′-biphenyl]-4-yl)carbonyl]-1,2,3,4-tetrahydro-6-quinolinyl]-3-(dimethylamino)-2-propen-1-one | 0.3 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1CCCC2=CC(=CC=C12)C(\C=C\N(C)C)=O | C27H25ClN2O2
solvent | methanol | 30 ml | CO | CH4O
product | 3-[1-([4′-Chloro[1,1-biphenyl]-4-yl)carbonyl)-1,2,3,4-tetrahydro-6-quinolinyl]-3-hydroxy-N,N-dimethyl-1-propanamine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1CCCC2=CC(=CC=C12)C(CCN(C)C)O | C27H29ClN2O2
